US06977263B2
A solution of lithium diisopropylamine (54 mmol) in anhydrous tetrahydrofuran (50 ml), at −78° C., was treated dropwise with a solution of benzyl 4-oxo-1-piperidinecarboxylate (11.4 g, 49 mmol) in anhydrous tetrahydrofuran (50 ml). This mixture was stirred at −78° C. for 20 minutes and then treated with a solution of N-phenyltrifluoromethanesulfonimide (19.26 g, 54 mmol) in anhydrous tetrahydrofuran (55 ml). The resultant orange suspension was warmed to 0° C., then stirred at 0° C. for 2 hours and then concentrated under vacuum. The residue was subjected to chromatography on silica gel eluting with dichloromethane to yield benzyl 1,2,3,6-tetrahydro-4-(trifluoromethylsulphonyloxy)-pyridine-1-carboxylate as a yellow oil (11.34 g). A portion of this material (0.84 g, 2.3 mmol) was dissolved in anhydrous dimethylformamide (20 ml) and the solution was treated with B-{3-[N,N-bis-(tert -butoxycarbonyl)aminomethyl]-phenyl-pinacolato-boron (1.0 g, 2.3 mmol), potassium carbonate (0.96 g, 6.7 mmol) and [1,1′-bis-(diphenylphosphino)ferroceno]dichloropalladium (II)-dichloromethane complex (0.1 g, 0.14 mmol). This mixture was heated at 80° C. under an atmosphere of nitrogen for 18 hours, then cooled and then concentrated under vacuum. The residue was partitioned between ethyl acetate (2 lots of 100 ml) and water (100 ml) containing concentrated ammonium hydroxide (6 ml). The combined organic extracts were dried over magnesium sulfate and then concentrated under vacuum. The resultant oil was subjected to chromatography on silica gel eluting with a mixture of ethyl acetate and pentane (1:4, v/v) to yield a yellow oil (0.9 g). This material was dissolved in ethanol (20 ml) and the solution was treated with 10% palladium on carbon (20 mg) then stirred at ambient temperature under an atmosphere of hydrogen for 5 hours. The reaction mixture was filtered through a short pad of hyflo and the filtrate was concentrated under vacuum to give 4-{3-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-phenyl}-piperidine as colorless oil (0.54 g). 1H NMR (CDCl3, 500 MHz): δ 7.10 (m, 4H), 4.80 (s, 2H), 4.45 (br m, 1H), 3.20 (br m, 1H), 2.98 (br m, 1H), 2.75 (br m, 1H), 1.90 (m, 1H), 1.75-1.60 (m, 3H), 1.42 (s, 18H). MS(EI): 391(M++H).

reactant | lithium diisopropylamine | 54 mmol | C(C)(C)NC(C)C.[Li]
reactant | benzyl 4-oxo-1-piperidinecarboxylate | 49 mmol, 11.4 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | N-phenyltrifluoromethanesulfonimide | 54 mmol, 19.26 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
product | benzyl 1,2,3,6-tetrahydro-4-(trifluoromethylsulphonyloxy)-pyridine-1-carboxylate | 11.34 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C14H14F3NO5S
